US06172066B2
e) 6-(3,4-Difluorophenyl)-1,2,3,6-tetrahydro-2-oxo-5-methoxycarbonyl-4-methyl-1-(4-nitrophenoxy)carbonylpyrimidine (Scheme 2; Step F)
To a well stirred solution of 6-(3,4-difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-(4-nitrophenoxy)carbonylpyrimidine (10 g) in THF (200 mL) at room temperature was added aqueous 6 N hydrochloric acid (10 mL). The stirring was continued for 3 h. Solvent was evaporated and the residue was dried under vacuum to obtain the product as a white powder (9.7 g, 100%); m.p. 185-186° C.

reactant | 6-(3,4-difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-(4-nitrophenoxy)carbonylpyrimidine | 10 g | FC=1C=C(C=CC1F)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C)C(=O)OC | C21H17F2N3O7
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-(3,4-Difluorophenyl)-1,2,3,6-tetrahydro-2-oxo-5-methoxycarbonyl-4-methyl-1-(4-nitrophenoxy)carbonylpyrimidine | 9.7 g, 100% | FC=1C=C(C=CC1F)C1C(=C(NC(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)C)C(=O)OC | C20H15F2N3O7
